US20010027196A1
2-Amino-4-isoxazol-5-yl-6-methylsulfanyl-pyrimidine-5-carbonitrile
From isoxazole-5-carboxylic acid ethyl ester with acetonitrile and butyllithium in THF. Then treatment with sodium hydride, carbon disulphide and methyl iodide in DMSO. Then treatment with guanidine nitrate and triethylamine in DMF. EI-MS m/e (%): 233 (M+, 45), 206 ([M—HCN]+, 100), 151 (33).

reactant | isoxazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC=NO1 | C6H7NO3
reactant | butyllithium | C(CCC)[Li]
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
reactant | guanidine nitrate | [N+](=O)(O)[O-].NC(=N)N
reactant | DMSO | CS(=O)C | C2H6OS
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | carbon disulphide | C(=S)=S | CS2
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Amino-4-isoxazol-5-yl-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC=NO1)C#N)SC | C9H7N5OS
